US08492378B2
methyl 1-[4-(methylthio)phenyl]-1H-benzimidazole-6-carboxylate
A solution of methyl 4-amino-3-[[4-(methylthio)phenyl]amino]benzoate (5.78 g, 20.0 mmol) in formic acid (50 mL) was stirred at 100° C. overnight. After cooling, the reaction mixture was concentrated under reduced pressure. The residue was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was recrystallized from hexane/ethyl acetate to give the title compound (4.44 g, yield 74%) as colorless crystals.

reactant | methyl 4-amino-3-[[4-(methylthio)phenyl]amino]benzoate | 20.0 mmol, 5.78 g | NC1=C(C=C(C(=O)OC)C=C1)NC1=CC=C(C=C1)SC | C15H16N2O2S
reactant | formic acid | 50 mL | C(=O)O | CH2O2
product | methyl 1-[4-(methylthio)phenyl]-1H-benzimidazole-6-carboxylate | 4.44 g, yield 74% | CSC1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C(=O)OC | C16H14N2O2S
